Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],5.1795972346
[H:1][C:2]#[C:3][C:5][C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][H:11],-1.61070735071
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2],5.069738368
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[C:8][O:9][H:10],-0.320115560311
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[O:13][H:14].[H:9],1.97656111853
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.21917529984
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4](\[H:5])(=[C:6]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],2.23827104028
[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.9917724049900003
[C:1]=[O:2]>>[C:1].[O:2],11.0925754184
[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.89322424101
[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]=[O:4]>>[H:1][O:2][C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-1.840936627
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:14]([H:15])[H:16],4.7548034927
[H:1].[O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.69534925656
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],1.73999826823
[C:6]([H:7])([H:8])=[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-2.27177750281
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],2.58458789758
[H:1][C:2][C:3]([O:4][O:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]1[O:4][O:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-1.5942658194
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2],2.85938290852
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1],4.11042051763
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][O:6][C:7]=[C:8]([H:9])[H:10].[H:5],3.8606368822
[O:1]=[C:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])[H:6].[O:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10],5.67573206161
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[H:12].[O:5]=[C:6]([H:7])[H:8],0.991953447031
[C:8]([H:9])=[C:10]([H:11])[O:12][H:13].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-1.90637721029
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.44023233994
[C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9],-6.19414687133
[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[H:8]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8],-2.589111365
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10],-0.330203489528
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[O:1],8.2335160712
[H:1][O:2][C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][O:4][C:5]=[C:6]([H:7])[H:8],4.71229403438
[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3](#[C:4][C:5][H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[C:2],3.02528435348
